data/oMe_Silver.jsonl
{"reaction_id": "NR-060_1-CCCC(C)C_2-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2","name": "Dess-Martin Oxidation","level": "easy","reactants_smiles": ["C(CCCC(C)C)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)([H])O","CC(=O)OI1(OC(=O)C)(OC(=O)C)C2=CC=CC=C2C(=O)O1"],"products_smiles": ["C(CCCC(C)C)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)=O"],"conditions": "CH2Cl2 or other aprotic solvent (often implied, not explicitly stated in image)","mechnism_text_description": "The Dess-Martin oxidation converts primary alcohols (like benzyl alcohol shown in the mechanism detail) to aldehydes, or secondary alcohols to ketones, using Dess-Martin Periodinane (DMP). The mechanism begins with a ligand exchange reaction (Step 1): the alcohol (benzyl alcohol) displaces an acetate ligand on the hypervalent iodine atom of DMP, forming an alkoxyperiodinane intermediate and releasing acetic acid. In the second step (Step 2), another acetate molecule (or another base present) abstracts a proton from the carbon atom bearing the alkoxy group (the benzylic proton in this case). This initiates a concerted elimination: the C-H bond electrons form the new carbon-oxygen double bond (aldehyde carbonyl), and simultaneously the bond between the oxygen and the iodine atom breaks, transferring electrons to the iodine. This step releases the aldehyde product (benzaldehyde) and the reduced form of the periodinane (a 1,2-benziodoxol-3(1H)-one derivative).","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "CC(=O)OI1(OC(C)=O)([OH+]C([H])(CCCC(C)C)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2))C2=CC=CC=C2C(=O)O1","step_weight": 0,"rationale": "The alcohol oxygen acts as a nucleophile toward the electron-deficient iodine(V) center, displacing an acetate due to iodine’s high electrophilicity and the good leaving group ability of acetate."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "CC(=O)OI1(OC(C)=O)([O]C([H])(CCCC(C)C)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2))C2=CC=CC=C2C(=O)O1","step_weight": 0,"rationale": "Acetate, a weak base present in the medium, abstracts the α-proton; the benzylic or α-carbon is relatively acidic due to adjacent oxygen, facilitating deprotonation under mild conditions."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(CCCC(C)C)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)=O","step_weight": 0,"rationale": "The C–H bond electrons form the C=O, while the O–I bond breaks; iodine’s ability to stabilize reduction and acetate’s leaving ability drive the elimination to yield the carbonyl product."}],"description": "In the Dess–Martin oxidation, the alcohol oxygen coordinates to the electrophilic iodine(V) center, replacing an acetate ligand. Subsequent deprotonation at the α-carbon facilitates concerted elimination, forming the carbonyl and reducing iodine. Mild, aprotic conditions favor selective oxidation without overoxidation."}
{"reaction_id": "NR-336_1-C_2-C(C)(C)C_3-C(F)(F)F","level": "medium","name": "Robinson-Gabriel Synthesis","reactants_smiles": ["C(=O)(NC([H])(C(C)(C)C)C(=O)C(F)(F)F)C"],"products_smiles": ["Cc1nc(C(C)(C)C)c(C(F)(F)F)o1"],"conditions": "Acid (e.g., H-OTs, H2SO4)","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(NC([H])(C(C)(C)C)C(=[OH+])C(F)(F)F)C","step_weight": 0,"rationale": "Protonation of the carbonyl oxygen increases the electrophilicity of the adjacent carbon, making it more susceptible to nucleophilic attack by the nearby amide nitrogen."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "CC1=[NH+]C(C(C)(C)C)C(O)(C(F)(F)F)O1","step_weight": 0,"rationale": "The amide nitrogen attacks the activated carbonyl carbon intramolecularly, favored by proximity and ring closure, forming a five-membered oxazolinium intermediate."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "CC1=NC(C(C)(C)C)C([OH2+])(C(F)(F)F)O1","step_weight": 0,"rationale": "Proton transfer to the hydroxyl group converts it into a better leaving group (water), facilitated by the acidic medium."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "Cc1nc(C(C)(C)C)c(C(F)(F)F)o1","step_weight": 0,"rationale": "Loss of water generates a conjugated aromatic oxazole ring, driven by the stability of the aromatic system and the good leaving ability of water under acidic conditions."}],"description": "Under acidic conditions, the amide carbonyl is activated toward intramolecular cyclization. Protonation increases electrophilicity, enabling nucleophilic attack by the amide nitrogen to form an oxazole ring. Subsequent proton transfers and water elimination yield the aromatic heterocycle."}
